US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-1H-tetrazol-5-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl 1H-tetrazol-5-ylcarbamate (190 mg, 0.731 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.141 ml, 0.812 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured into the reaction mixture and a crystal was collected by filtration. They were recrystallized from a mixed solvent of hexane and tetrahydrofuran to obtain the desired product (72.9 mg, 27.9%) as a solid.

reactant | 2,2,2-trichloroethyl 1H-tetrazol-5-ylcarbamate | 0.731 mmol, 190 mg | N1N=NN=C1NC(OCC(Cl)(Cl)Cl)=O | C4H4Cl3N5O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.812 mmol, 0.141 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-1H-tetrazol-5-ylpiperazine-1-carboxamide | 72.9 mg, 27.9% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=NN=NN1 | C14H15N9OS
